US07960409B2
(S)-1-[4-(4-fluorophenyl)-7-({4-[1-hydroxy-1-(trifluoromethyl)propyl]-1H-1,2,3-triazol-1-yl}methyl)quinolin-2-yl]ethanone
A mixture of (S)-2-(1-{[2-chloro-4-(4-fluorophenyl)quinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)-1,1,1-trifluorobutan-2-ol (235 mg, 0.51 mmol), tributyl(1-ethoxyvinyl)tin (188 μL, 0.56 mmol), tetrakis(triphenylphosphine)palladium (30 mg, 0.025 mmol) and lithium chloride (64 mg, 1.5 mmol) was refluxed in dioxane (10 mL) overnight. An aqueous saturated solution of NaHCO3 was added and the mixture extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4 and concentrated under reduce pressure. THF (5 mL) and 3M HCl (2 mL) were added, and the solution was stirred at rt for 4 h. An aqueous saturated solution of NaHCO3 was added and the mixture extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated under reduce pressure. Purification on silica gel (eluting with ethyl acetate/hexanes, 2:8) gave the title compound. MS (+ESI): 473 (M+H)+.

reactant | (S)-2-(1-{[2-chloro-4-(4-fluorophenyl)quinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)-1,1,1-trifluorobutan-2-ol | 0.51 mmol, 235 mg | ClC1=NC2=CC(=CC=C2C(=C1)C1=CC=C(C=C1)F)CN1N=NC(=C1)[C@](C(F)(F)F)(CC)O | C22H17ClF4N4O
reactant | tributyl(1-ethoxyvinyl)tin | 0.56 mmol, 188 μL | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | lithium chloride | 1.5 mmol, 64 mg | [Cl-].[Li+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.025 mmol, 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-1-[4-(4-fluorophenyl)-7-({4-[1-hydroxy-1-(trifluoromethyl)propyl]-1H-1,2,3-triazol-1-yl}methyl)quinolin-2-yl]ethanone | FC1=CC=C(C=C1)C1=CC(=NC2=CC(=CC=C12)CN1N=NC(=C1)[C@@](CC)(C(F)(F)F)O)C(C)=O | C24H20F4N4O2
